US09193741B2
Synthesis of 1-(4-(2-amino-8-(4-fluorophenyl)-9-methyl-9H-purin-6-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
To a solution of 2-amino-6-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-8-(4-fluorophenyl)-9H-purine (48 mg, 0.1 mmol) in DMF (2 ml) was added potassium carbonate (28 mg, 0.2 mmol) and methyl iodide (6 μl, 0.1 mmol). The reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was evaporated in vacuo and the crude residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio of 1:50), yielding the pure title compound (40 mg, 80%).

reactant | 2-amino-6-[4-(4-chlorophenoxyacetyl)piperazin-1-yl]-8-(4-fluorophenyl)-9H-purine | 0.1 mmol, 48 mg | NC1=NC(=C2N=C(NC2=N1)C1=CC=C(C=C1)F)N1CCN(CC1)C(COC1=CC=C(C=C1)Cl)=O | C23H21ClFN7O2
reactant | potassium carbonate | 0.2 mmol, 28 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.1 mmol, 6 μl | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-(4-(2-amino-8-(4-fluorophenyl)-9-methyl-9H-purin-6-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | 40 mg, 80% | NC1=NC(=C2N=C(N(C2=N1)C)C1=CC=C(C=C1)F)N1CCN(CC1)C(COC1=CC=C(C=C1)Cl)=O | C24H23ClFN7O2
